US07504508B2
N-(4-chlorophenyl)-N-{(2S,4R)-1-[4-(4-hydroxy-4-methylpentyl)benzoyl]-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl}acetamide (H-62)
To a solution of N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-(4-(4-oxopentyl)benzoyl)-1,2,3,4-tetrahydroquinolin-4-yl)acetamide (40 mg, 0.079 mmol) in THF (2 mL), was added MeMgBr (68 uL, 0.095 mmol, 1.4 M solution in THF) at 0° C. The mixture was stirred at 0° C. for 2 h. After quenching with sat. NH4Cl solution, the mixture was extracted with EtOAc. The combined organic phases were dried over MgSO4 and concentrated. The residue was purified by column chromatography (EtOAc) to give 16 mg of desired product as a white solid (40% yield).

reactant | N-(4-chlorophenyl)-N-((2S,4R)-2-methyl-1-(4-(4-oxopentyl)benzoyl)-1,2,3,4-tetrahydroquinolin-4-yl)acetamide | 0.079 mmol, 40 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)CCCC(C)=O)=O)C | C30H31ClN2O3
reactant | MeMgBr | 0.095 mmol, 1.4 M, 68 uL | C[Mg+].[Br-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(4-chlorophenyl)-N-{(2S,4R)-1-[4-(4-hydroxy-4-methylpentyl)benzoyl]-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl}acetamide | 16 mg, 40% yield | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)CCCC(C)(C)O)=O)C | C31H35ClN2O3
